US07276531B2
tert-butyl 1-{2-[4-(methoxycarbonyl)phenyl]ethyl}-5-oxo-D-prolinate (Scheme 1)
To a solution of H-D-Glu(OtBu)-OtBu, commercially available from Bache (0.5 g, 2.23 mmol) in MeOH (15 mL) were added 4-carbomethoxyphenylacetaldehyde (obtained from methyl 4-formyl benzoate as described in Nair et al., 1989) (0.4 g, 2.23 mmol), acetic acid (0.15 mL, 2.67 mmol), and NaCNBH3 (3.3 mL, 1.0 M THF solution, 3.3 mmol). The resulting solution was stirred at RT for 3 h then was diluted with EtOAc (100 mL) and washed with water (50 mL), and brine (50 mL). The organic solution was dried over sodium sulfate and concentrated in vacuo. The crude oil was diluted with xylene and the solution refluxed for 5 h. This solution was concentrated under reduced pressure and purified by silica gel column chromatography using EtOAc/hexane as eluent to afford the title compound (0.75 g, 75%) as a white solid. Rj 0.45 (EtOAc/hexane 1/1); 1H NMR (CDCl3) δ 1.47 (s, 9H), 1.95-2.05 (m, 1H), 2.10-2.20 (m, 1H), 2.25-2.35 (m, 1H), 2.40-2.50 (m, 1H), 2.80-3.00 (m, 2H), 3.10-3.20 (m, 1H), 3.82 (dd, 1H), 3.91 (s, 3H), 3.90-4.01 (m, 1H), 7.25 (d, 2H), 7.96 (d, 2H).

reactant | H-D-Glu(OtBu)-OtBu | N[C@H](CCC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C13H25NO4
reactant | 4-carbomethoxyphenylacetaldehyde | 2.23 mmol, 0.4 g | C(=O)(OC)C1=CC=C(C=C1)CC=O | C10H10O3
reactant | acetic acid | 2.67 mmol, 0.15 mL | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 3.3 mmol, 1.0 M, 3.3 mL | [BH3-]C#N.[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 1-{2-[4-(methoxycarbonyl)phenyl]ethyl}-5-oxo-D-prolinate | 0.75 g, 75% | COC(=O)C1=CC=C(C=C1)CCN1[C@@H](C(=O)OC(C)(C)C)CCC1=O | C19H25NO5
